US08686147B2
8i) 4-(2-Bromoethyl)benzenesulfonyl chloride
To a solution of 2-bromoethylbenzene (10.0 g; 54 mmol) in 16 ml of chloroform placed at a temperature of 0° C. was added dropwise a solution of chlorosulfonic acid (162 mmol, 18.87 g; 10.82 ml) in 11 ml of chloroform. After 15 minutes at 0° C., the reaction was maintained at room temperature for 3 hours. The reaction mixture was poured onto ice, and the aqueous phase was extracted with chloroform. The combined organic phases were washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was evaporated off to give 12.34 g of crude product, which was purified by chromatography on a column of silica, eluting with chloroform (76% yield). The product obtained was used for the following reaction without further purification.

reactant | 2-bromoethylbenzene | 54 mmol, 10.0 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | chlorosulfonic acid | 162 mmol, 10.82 ml, 18.87 g | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | 16 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 11 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-Bromoethyl)benzenesulfonyl chloride | 12.34 g | BrCCC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8BrClO2S
